US03994908
To a suspension of 3-(2-pyridyloxy)benzoic acid (1.80 g) in thionyl chloride (5.4 ml), dimethylformamide (0.2 ml) is added, and the resultant mixture is stirred at room temperature for 2.5 hours. The reaction mixture is evaporated under reduced pressure to remove the excessive thionyl chloride, and the residue is combined with anhydrous pyridine (0.73 g) and anhydrous benzene (40 ml). The precipitated pyridine hydrochloride is filtered off. The filtrate is evaporated to remove the benzene, and the residue is dissolved in anhydrous ether (20 ml). The ether solution is filtered to remove the insoluble substance. The filtrate is evaporated to remove the ether, whereby 3-(2-pyridyloxy)benzoyl chloride is obtained. IR (CCl4): 1774 cm-1.

reactant | 3-(2-pyridyloxy)benzoic acid | 1.80 g | N1=C(C=CC=C1)OC=1C=C(C(=O)O)C=CC1 | C12H9NO3
reactant | thionyl chloride | 5.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | 3-(2-pyridyloxy)benzoyl chloride | N1=C(C=CC=C1)OC=1C=C(C(=O)Cl)C=CC1 | C12H8ClNO2
